US05206240
Step 1: Preparation of 3-acetyl-4-hydroxy-benzenesulfonic acid amide
The title compound was prepared in a similar manner as for the preparation of N-methyl-3-acetyl-4-hydroxy-benzenesulfonic acid amide, but substituting ammonia for mono methyl amine.

reactant | N-methyl-3-acetyl-4-hydroxy-benzenesulfonic acid amide | CNS(=O)(=O)C1=CC(=C(C=C1)O)C(C)=O | C9H11NO4S
reactant | mono methyl amine | CN | CH5N
product | 3-acetyl-4-hydroxy-benzenesulfonic acid amide | C(C)(=O)C=1C=C(C=CC1O)S(=O)(=O)N | C8H9NO4S
